US07696231B2
b) Preparation of N′-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-4-(1H-tetrazol-5-yl)benzohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-bromo-1H-indole-2,3dione in acetic acid was added 4-(1H-tetrazol-5-yl)benzohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 29 mg of the title compound (53%) as a orange Solid in 89.1% purity by HPLC (Rt: 3.29, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-bromo-1H-indole-2,3dione | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | 4-(1H-tetrazol-5-yl)benzohydrazide | N1N=NN=C1C1=CC=C(C(=O)NN)C=C1 | C8H8N6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-bromo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-4-(1H-tetrazol-5-yl)benzohydrazide | 29 mg, 53% | BrC=1C=C2C(C(NC2=CC1)=O)=NNC(C1=CC=C(C=C1)C1=NN=NN1)=O | C16H10BrN7O2
